US06455587B1
Preparation of Nε-(2,4,6-Triisopropylbenzenesulfonyl)-Nα-(9-fluorenylmethoxycarbonyl)-L-lysine (Compound No. 25)
Nα-(9-fluorenylmethoxycarbonyl)-L-lysine was reacted with 2,4,6-triisopropylbenzenesulfonyl chloride under the conditions used in example 2 giving 34% of the title compound.

reactant | Nα-(9-fluorenylmethoxycarbonyl)-L-lysine | C1=CC=CC=2C3=CC=CC=C3C(C12)COC(=O)N[C@@H](CCCCN)C(=O)O | C21H24N2O4
reactant | 2,4,6-triisopropylbenzenesulfonyl chloride | C(C)(C)C1=C(C(=CC(=C1)C(C)C)C(C)C)S(=O)(=O)Cl | C15H23ClO2S
product | Nε-(2,4,6-Triisopropylbenzenesulfonyl)-Nα-(9-fluorenylmethoxycarbonyl)-L-lysine | 34% | C(C)(C)C1=C(C(=CC(=C1)C(C)C)C(C)C)S(=O)(=O)NCCCC[C@H](NC(=O)OCC1C2=CC=CC=C2C=2C=CC=CC12)C(=O)O | C36H46N2O6S
